US04082764
2-Amino-5,2'-dichlorobenzophenone is reacted with formic acid, whereby 5, 2'-dichloro-2-formylaminobenzophenone (pale yellow granules melting at 106° to 107° C) is obtained. The product is then reacted with hydrazine hydrate, whereby 3-amino-6-chloro-4-(2-chlorophenyl)-3,4-dihydro-4-hydroxyquinazoline (colorless granules melting at 198° C (effervescence)) is obtained. The product is reacted with chloroacetyl chloride, whereby a bis-(monochloroacetyl) derivative of 3-amino-6-chloro-4-(2-chlorophenyl)-3,4-dihydro-4-hydroxyquinazoline (colorless powdery crystals melting at 157° to 158° C) is obtained. Further, the product is treated with monochloroacetic acid in dry benzene under refluxing, whereby crystals of 2-(3-chloromethyl-s-triazol-4-yl)-5, 2'-dichlorobenzophenone are obtained. Recrystallization from chloroform-n-hexane gives colorless granules melting at 139° to 140° C. Overall yield: 34%.

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-amino-6-chloro-4-(2-chlorophenyl)-3,4-dihydro-4-hydroxyquinazoline | NN1C=NC2=CC=C(C=C2C1(O)C1=C(C=CC=C1)Cl)Cl | C14H11Cl2N3O
reactant | monochloroacetic acid | ClCC(=O)O | C2H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(3-chloromethyl-s-triazol-4-yl)-5, 2'-dichlorobenzophenone | yield: 34% | ClCC1=NN=CN1C1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C16H10Cl3N3O
